US05665749
4-(3-Benzyloxy-5-fluorophenyl)-4-hydroxytetrahydropyran
A solution of 3-benzyloxy-1-bromo-5-fluorobenzene (29.1 g) in 250 ml of tetrahydrofuran was cooled to about -75° C. and n-butyl lithium (1.6M in hexane, 65 ml) was added dropwise.. The mixture was stirred at about -75° C. for about 1 hour and a solution of tetrahydropyran-4-one (10.4 g) was added dropwise. The mixture was stirred at about -75° C. for about 1 more hour then allowed to warm to about 0° C. A saturated aqueous solution of ammonium chloride was added and the tetrahydrofuran was evaporated in vacuo. The residue was partitioned between water and ethyl acetate. The organic phase was separated and dried over sodium sulfate. The residue was purified by column chromatography on silica gel eluting with methylene chloride/hexanes to give 9.2 g of the title compound as an oil.

reactant | 3-benzyloxy-1-bromo-5-fluorobenzene | 29.1 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)Br | C13H10BrFO
reactant | n-butyl lithium | 1.6M, 65 ml | C(CCC)[Li]
reactant | tetrahydropyran-4-one | 10.4 g | O1CCC(CC1)=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-(3-Benzyloxy-5-fluorophenyl)-4-hydroxytetrahydropyran | 9.2 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)O | C18H19FO3
